US03950380
By replacing in Example 2, step D, 3-benzyloxy-5-nitro-4-phenylbenzoic acid with 5-nitro-3-n-pentyloxy-4-phenylbenzoic acid, and following the procedure described, 5-amino-3-n-pentyloxy-4-phenylbenzoic acid is obtained crystallizing with 0.25 mole of water with a melting point of 134°-135° C.

reactant | 3-benzyloxy-5-nitro-4-phenylbenzoic acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)[N+](=O)[O-] | C20H15NO5
reactant | 5-nitro-3-n-pentyloxy-4-phenylbenzoic acid | [N+](=O)([O-])C=1C(=C(C=C(C(=O)O)C1)OCCCCC)C1=CC=CC=C1 | C18H19NO5
product | 5-amino-3-n-pentyloxy-4-phenylbenzoic acid | NC=1C(=C(C=C(C(=O)O)C1)OCCCCC)C1=CC=CC=C1 | C18H21NO3
